US07557114B2
(a) 5-Chloro-6-(3,6-dihydro-2H-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester
Prepared in analogy to Example A49(a) from 5-chloro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A3(c)) and tributyl-(3,6-dihydro-2H-pyran-4-yl)-stannane. Yellow solid. MS (m/e): 282.3 ({37Cl}[M+H−Me2C═CH2]+, 49%), 280.3 ({35Cl}[M+H−Me2C═CH2]+, 100%).

reactant | 5-chloro-6-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)I | C13H15ClINO2
reactant | tributyl-(3,6-dihydro-2H-pyran-4-yl)-stannane | C(CCC)[Sn](C=1CCOCC1)(CCCC)CCCC
product | 5-Chloro-6-(3,6-dihydro-2H-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl Ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)C=1CCOCC1 | C18H22ClNO3
